US06013655
C. N-(4-chloro-3-methyl-5-isoxazolyl)-N-(methoxyethoxymethyl)-2-{α-acetoxy-2-[2-(acetoxy)ethyl]-4,5-(methylenedioxy)benzyl}thieno[2,3-b]pyridine-3-sulfonamide
To a solution of N-(4-chloro-3-methyl-5-isoxazolyl)-N-(methoxyethoxymethyl)-2-[α-hydroxy-2-(2-hydroxyethyl)-4,5-(methylenedioxy)benzyl]thieno[2,3-b]pyridine-3-sulfonamide (0.11 g, 0.19 mmoles) in pyridine (2 ml) was added acetic anhydride (0.18 ml, 1.9 mmoles). The reaction solution was stirred 2 hours at ambient temperature, then diluted with EtOAc (50 ml) and washed with 2% HCl (2×100 ml). The organic layer was dried (MgSO4), filtered and concentrated to collect 0.13 g (100%) of the title compound as a yellow oil.

reactant | N-(4-chloro-3-methyl-5-isoxazolyl)-N-(methoxyethoxymethyl)-2-[α-hydroxy-2-(2-hydroxyethyl)-4,5-(methylenedioxy)benzyl]thieno[2,3-b]pyridine-3-sulfonamide | 0.19 mmoles, 0.11 g | ClC=1C(=NOC1N(S(=O)(=O)C1=C(SC2=NC=CC=C21)C(C2=C(C=C1C(=C2)OCO1)CCO)O)COCCOC)C | C25H26ClN3O9S2
reactant | acetic anhydride | 1.9 mmoles, 0.18 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | EtOAc | 50 ml | CCOC(=O)C | C4H8O2
solvent | pyridine | 2 ml | N1=CC=CC=C1 | C5H5N
product | N-(4-chloro-3-methyl-5-isoxazolyl)-N-(methoxyethoxymethyl)-2-{α-acetoxy-2-[2-(acetoxy)ethyl]-4,5-(methylenedioxy)benzyl}thieno[2,3-b]pyridine-3-sulfonamide | ClC=1C(=NOC1N(S(=O)(=O)C1=C(SC2=NC=CC=C21)C(C2=C(C=C1C(=C2)OCO1)CCOC(C)=O)OC(C)=O)COCCOC)C | C29H30ClN3O11S2
